US08071592B2
(e) 6-Oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carboxylic Acid
To a solution of methyl 6-oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carboxylate (0.809 g, 3.32 mmol) in 1,4-dioxane (10 ml) and water (5 ml) was added 2M NaOH (2 ml) and the reaction was stirred at rt for 2 h. The pH of the mixture was then adjusted to 2-3 with 2M HCl and extracted three times with EtOAc. The combined organic phases were then dried and evaporated to give the desired product as a solid (0.689 g, 90%).

reactant | methyl 6-oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carboxylate | 3.32 mmol, 0.809 g | O=C1N(C=2C=C(C=NC2C=C1)C(=O)OC)CC=C | C13H12N2O3
reactant | NaOH | 2M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 6-Oxo-5-(2-propen-1-yl)-5,6-dihydro-1,5-naphthyridine-3-carboxylic Acid | 0.689 g, 90% | O=C1N(C=2C=C(C=NC2C=C1)C(=O)O)CC=C | C12H10N2O3
